US05675038
Reduction of n-nonanal O-methyloxime. Lithium (1.6 g, 0.228 mol) was added in one portion to a solution of n-nonanal O-methyloxime (5.13 g, 0.030 mol) in n-propylamine (50 mL), ethylenediamine (9 g, 0.15 mol) and t-butanol (11 g, 0.15 mol). After 3 hr, an aliquot was analyzed by glpc and no oxime was present. The reaction mixture was poured into ice-water (150 mL) and the mixture was extracted with ether (3×100 mL). The combined ether extracts were washed with brine (4×100 mL), dried over magnesium sulfate and concentrated under reduced pressure. Distillation of the residue afforded n-nonylamine (3.0 g, 70%), bp 98-100° (20 mm). The nmr spectrum was identical with that of an authentic sample.

reactant | n-nonanal O-methyloxime | CON=CCCCCCCCC | C10H21NO
reactant | Lithium | 0.228 mol, 1.6 g | [Li] | Li
reactant | n-nonanal O-methyloxime | 0.030 mol, 5.13 g | CON=CCCCCCCCC | C10H21NO
reactant | ethylenediamine | 0.15 mol, 9 g | C(CN)N | C2H8N2
reactant | t-butanol | 0.15 mol, 11 g | C(C)(C)(C)O | C4H10O
solvent | n-propylamine | 50 mL | C(CC)N | C3H9N
product | n-nonylamine | 3.0 g, 70% | C(CCCCCCCC)N | C9H21N
